US07456164B2
Intermediate 75: 4-[4-(morpholin-4-ylmethyl)tetrahydro-2H-pyran-4-yl]phenol
The title compound (1.70 g, 75%) was prepared using 4-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]methyl}-morpholine and sodium thiomethoxide similarly to the procedure used for intermediate 72. HRMS ESI+ m/z 278.1740 [MH]+.

reactant | 4-{[4-(4-methoxyphenyl)tetrahydro-2H-pyran-4-yl]methyl}-morpholine | COC1=CC=C(C=C1)C1(CCOCC1)CN1CCOCC1 | C17H25NO3
reactant | sodium thiomethoxide | C[S-].[Na+]
product | 4-[4-(morpholin-4-ylmethyl)tetrahydro-2H-pyran-4-yl]phenol | 1.70 g, 75% | N1(CCOCC1)CC1(CCOCC1)C1=CC=C(C=C1)O | C16H23NO3
